US07504411B2
To a solution of (S)-1,4-di(t-butoxycarbonyl)-2-(4-((R)-3-hydroxy pyrrolidino)phenyl)piperazine (733 mg, 1.64 mmol) and triethylamine (0.34 mL, 2.46 mmol) in dichloromethane (20 mL) was added methanesulfonyl chloride (0.152 mL, 1.97 mmol) at 0° C. After stirring for 20 min, the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated in vacuo to afford (S)-1,4-di(t-butoxycarbonyl)-2-(4-((R)-3-(methansulfonyloxy)pyrrolidin-1-yl) phenyl)piperazine (877 mg, quant.) as a brown solid.

reactant | (S)-1,4-di(t-butoxycarbonyl)-2-(4-((R)-3-hydroxy pyrrolidino)phenyl)piperazine | 1.64 mmol, 733 mg | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)N1C[C@@H](CC1)O | C24H37N3O5
reactant | triethylamine | 2.46 mmol, 0.34 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.97 mmol, 0.152 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (S)-1,4-di(t-butoxycarbonyl)-2-(4-((R)-3-(methansulfonyloxy)pyrrolidin-1-yl) phenyl)piperazine | 877 mg | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)N1C[C@@H](CC1)OS(=O)(=O)C | C25H39N3O7S
